US07105679B2
STEP A: 5-(tert-butyl-dimethyl-silyloxy)-2-(7-(tert-butyl-dimethyl-silyloxy)-4-{1-hydroxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-ethyl}-2H-chromen-3-yl)-phenol.
To a solution of 1-[2-(4-bromophenoxy)-ethyl]-pyrrolidine (331 mg, 1.22 mmol) in THF (7.5 mL) at −78° C., was added n-butyl lithium (2.5 M in hexane, 478 μL, 1.19 mmol). The mixture was stirred at −78° C. for 0.5 hours. To this mixture was then added 2,8-bis-(tert-butyl-dimethyl-silyloxy)-11H-chromeno[4,3-c]chromen-5-one (153 mg, 0.30 mmol) in THF (3 mL), prepared as in Example 22. The reaction mixture was then stirred at −78° C. for 1.5 hours. To this mixture was added methyl magnesium bromide (3 M in diethyl ether, 1 mL, 2.99 mmol) at −78° C. and the reaction mixture stirred at room temperature overnight. The reaction was quenched with aqueous NH4Cl and extracted with ethyl acetate. The organic layer was washed with brine and dried over MgSO4. The solvent was evaporated to yield the crude product as a yellow oil. The crude product was carried to the next step without further purification.

reactant | 1-[2-(4-bromophenoxy)-ethyl]-pyrrolidine | 1.22 mmol, 331 mg | BrC1=CC=C(OCCN2CCCC2)C=C1 | C12H16BrNO
reactant | n-butyl lithium | 1.19 mmol, 2.5 M, 478 μL | C(CCC)[Li]
reactant | 2,8-bis-(tert-butyl-dimethyl-silyloxy)-11H-chromeno[4,3-c]chromen-5-one | 0.30 mmol, 153 mg | C(C)(C)(C)[Si](OC=1C=CC=2C3=C(COC2C1)C=1C=CC(=CC1OC3=O)O[Si](C)(C)C(C)(C)C)(C)C | C28H38O5Si2
reactant | methyl magnesium bromide | 2.99 mmol, 3 M, 1 mL | C[Mg]Br
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 5-(tert-butyl-dimethyl-silyloxy)-2-(7-(tert-butyl-dimethyl-silyloxy)-4-{1-hydroxy-1-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-ethyl}-2H-chromen-3-yl)-phenol | C(C)(C)(C)[Si](OC=1C=CC(=C(C1)O)C=1COC2=CC(=CC=C2C1C(C)(C1=CC=C(C=C1)OCCN1CCCC1)O)O[Si](C)(C)C(C)(C)C)(C)C | C41H59NO6Si2
